US04592866
2,3-Dihydro-4-methyl-2-[2-(2-methyl-1-pyrrolidinyl)ethyl]pyrido[3,2-f][1,4]oxazepin-5(4H)-one
To a solution of 3.5 g (0.0145 mole) of 2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepine-5(4H)-one in ethanol (15 ml) was added 2-methyl pyrrolidine (5.0 g, 0.063 mole). The solution was heated to reflux for 3 hours with stirring. The ethanol was removed by rotary evaporation (water aspirator, 80° C.). The residual oil was partitioned between dilute aqueous sodium hydroxide (50 ml) and chloroform (50 ml). The organic layer was saved and the aqueous layer extracted with chloroform (2×30 ml). All the chloroform layers were combined, dried over anhydrous sodium sulfate and concentrated by rotary evaporation (water aspirator, 70° C.). The residual oil was then distilled at 200° C. and low vacuum (vacuum pump) giving 1.5 g (35.7%) of a clear oil.

reactant | 2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepine-5(4H)-one | 0.0145 mole, 3.5 g | ClCCC1OC2=C(C(N(C1)C)=O)C=CC=N2 | C11H13ClN2O2
reactant | 2-methyl pyrrolidine | 0.063 mole, 5.0 g | CC1NCCC1 | C5H11N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2,3-Dihydro-4-methyl-2-[2-(2-methyl-1-pyrrolidinyl)ethyl]pyrido[3,2-f][1,4]oxazepin-5(4H)-one | 1.5 g, 35.7% | CN1CC(OC2=C(C1=O)C=CC=N2)CCN2C(CCC2)C | C16H23N3O2
